US07612078B2
3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzoic acid
Methyl 3-((4-(6-chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzoate (127 mg, 0.3 mmol) was heated in a 25% MeOH—H2O solution at 90° C. for 3 h in the presence of LiOH—H2O (12.7 mg, 0.3 mmol). The solvent was removed under reduced pressure; the residue was dissolved in MeOH and filtered. The filtrate was evaporated to collect product in 79% yield (97 mg). 1H NMR (400 MHz, CD3OD) δ 8.27 (s, 1H), 7.92 (s, 1H), 7.85 (d, 1H), 7.50 (s, 1H), 7.42 (d, 1H), 7.33 (t, 1H), 4.11 (m, 1H), 3.59 (s, 2H), 2.98 (d, 2H), 2.20 (t, 2H), 2.00 (d, 2H), 1.68 (m, 2H); MS (ESI) m/z: Calculated for C19H20ClN4O2S, 403.1; Observed: 403.2 (M++1).

reactant | Methyl 3-((4-(6-chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzoate | 0.3 mmol, 127 mg | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=C(C(=O)OC)C=CC2)S1 | C20H21ClN4O2S
reactant | LiOH—H2O | 0.3 mmol, 12.7 mg | O[Li].O
solvent | MeOH—H2O | CO.O
product | 3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)benzoic acid | 79% yield | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=C(C(=O)O)C=CC2)S1 | C19H19ClN4O2S
